US09062075B2
Intermediates-14.4: Synthesis of 6-bromo-1′-(cyclopentanecarbonyl)-1H-spiro[[1,8]naphthyridine-3,4′-piperidin]-2(4H)-one
DIPEA (1.22 mL, 8.82 mmol) was added to a stirred solution of 6-bromo-1H-spiro[[1,8]naphthyridine-3,4′-piperidin]-2(4H)-one 2,2,2-trifluoroacetate (Intermediate-14) (600 mg, 1.47 mmol), cyclopentanecarboxylic acid (250 mg, 2.20 mmol), HOBt (390 mg, 2.94 mmol) and EDC.HCl (700 mg, 3.67 mmol) in dry DMF (5 mL) at 20-35° C. and the reaction mixture was allowed to stir at 20-35° C. for 16 h. Then the reaction mixture was poured into ice water (100 mL), obtained solid was filtered, washed with water and dried under vacuum to get the desired compound as an off-white solid (250 mg, 43%); 1H NMR (400 MHz, DMSO-d6) δ 10.74 (s, 1H), 8.23 (d, J=2.0 Hz, 1H), 7.86 (d, J=1.9 Hz, 1H), 3.76-3.67 (m, 3H), 3.47-3.41 (m, 1H), 2.99 (s, 2H), 2.96-2.94 (m, 1H), 1.90-1.72 (m, 4H), 1.71-1.56 (m, 4H), 1.55-1.42 (m, 2H), 1.38-1.23 (m, 2H).

reactant | DIPEA | 8.82 mmol, 1.22 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-bromo-1H-spiro[[1,8]naphthyridine-3,4′-piperidin]-2(4H)-one 2,2,2-trifluoroacetate | 1.47 mmol, 600 mg | FC(C(=O)O)(F)F.BrC=1C=C2CC3(CCNCC3)C(NC2=NC1)=O
reactant | cyclopentanecarboxylic acid | 2.20 mmol, 250 mg | C1(CCCC1)C(=O)O | C6H10O2
reactant | HOBt | 2.94 mmol, 390 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 3.67 mmol, 700 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-bromo-1′-(cyclopentanecarbonyl)-1H-spiro[[1,8]naphthyridine-3,4′-piperidin]-2(4H)-one | 250 mg, 43% | BrC=1C=C2CC3(CCN(CC3)C(=O)C3CCCC3)C(NC2=NC1)=O | C18H22BrN3O2
